Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transient right visual field loss. 
 
Major Surgical or Invasive Procedure:
TEE with PFO with bidirectional flow. 

 
History of Present Illness:
The patient is a ___ who  was cutting tile yesterday and became 
disoriented. He said it felt like the room was moving (not 
spinning but moving when he knew it wasn't supposed to be), and 
that he didn't know where he was (knew he was in the bathroom 
but didn't understand why he was there or how he got there). He 
lost his balance briefly, and immediately noticed a sensation in 
his right hand that felt like an electric shock. This sensation 
went through his hand for ___ seconds and did not spread past 
the wrist. He then noticed a "blind spot in [his] right eye" and 
began to have a dull headache. He could not see things on his 
right side, even when he closed one eye, but instead saw black 
and white static. After an hour, the blind spot had subsided 
somewhat but there was still some visual impairment. He went to 
bed, and when he awoke the following morning he still had a 
headache and vision loss on the right side. He went to the 
nearest ___, had a CT scan, was sent to ___ 
___ where he had an MRI, and was then transferred to 
the ___ as an atypical stroke presentation.

On neurologic review of systems, the patient denies 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies focal muscle weakness, numbness, parasthesia. 
Denies loss of sensation. Denies bowel or bladder incontinence 
or retention. Denies difficulty with gait.

On general review of systems, the patient denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgia or myalgias. Denies rash.

 
Past Medical History:
Migraine headaches with visual changes described as curving 
lines in the right visual field, occurring every 2 months 
without associated headaches.     
 
Social History:
___
Family History:
Mother: breast CA
___: prostate CA
MGm: DM type 2
Brother: (older) healthy
Sister: (older) healthy
No family history of thrombosis, coagulopathy, or miscarriages 
known to pt.
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Vitals: T:  P:  R: 16  BP:  SaO2:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, normal. S1S2, no M/R/G noted
Abdomen: soft, NT/ND.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Patient was able to name both high and low frequency objects.  
Able to read without difficulty. Speech was not dysarthric. Able 
to follow both midline and appendicular commands. He was able to 
register 3 objects and recall ___ at 5 minutes. There was no 
evidence of apraxia or neglect.

Cranial Nerves:
II, III, IV, VI:  PERRL 6 to 4mm and brisk. EOMI with 2 beats 
horizontal nystagmus. Normal saccades. VFF to confrontation; OD 
some loss of clarity on right hemi-field to facial inspection, 
OS without deficits. Visual acuity ___ bilaterally. 
V: Facial sensation intact to light touch in V1-V3
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically, uvula midline.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
Motor: Normal bulk without fasciculation, tremor, asterixis, or 
adventitious movement; tone normal throughout with no rigidity 
or spasticity. No pronator drift bilaterally.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5
Sensory: No deficits to light touch, cold sensation, vibratory 
sense, proprioception throughout. No extinction to DSS.
DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    3   1
 R  2  2    2    3   1
 Plantar response was flexor bilaterally.
Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.
Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

=======================
DISCHARGE PHYSICAL EXAM
=======================
Temperature: 97.8
Blood pressure: 117/54
Pulse: 83 
Respiratory rate: 18 
Oxygen saturation: 96% 

General physical examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination:
Mental status: 
Patient is alert and fully oriented.  Patient with fluid speech
and no errors in language.  Patient is able to express concerns
and follow directions throughout examination without difficulty. 


Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: 
Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

Sensory: 
No deficits to light touch throughout.

Reflexes:
Deferred.

Coordination: 
No dysmetria on FNF.

Gait: 
Deferred.

 
Pertinent Results:
Non-Contrast CT of Head ___: Outside study; No acute 
intracranial blood is appreciated. There is a 24mm region of 
hypodensity and decreased gray-white matter contrast in the left 
posterolateral parietal lobe and anterolateral occipital lobe 
extending from the cortex to the posterior aspect of the left 
lateral ventricle.

MRI of Head ___: Outside study; diffusion-weighted imaging 
shows 23mm region of hyper intensity in the left posterolateral 
parietal lobe and anterolateral occipital lobe extending from 
the cortex to the posterior aspect of the left lateral 
ventricle. ADC shows hypo intensity corresponding to the region 
described above.

CTA head and neck ___: 
1. Early subacute infarction in the left parietal lobe, similar 
to the MRI 
from 1 day earlier.  No acute hemorrhage.  No significant mass 
effect. 
2. Normal CTA of the head and neck without evidence for 
dissection. 
3. Paranasal sinus disease. 

TEE ___: PFO with bidirectional flow, no thrombus 

MRV and lower extremity ultrasound studies: Negative for DVT 

%HbA1c-4.8 
Triglyc-96 HDL-54 CHOL/HD-3.8 LDLcalc-132*
TSH-3.8
Anti lupus, protein c, protein s, and anti thrombin negative

 
Brief Hospital Course:
Patient is a ___ year old male with no past medical history whom 
experienced a transient episode of right visual field loss whom 
was found to have a left parietooccipital stroke. Patient's 
neurologic examination was unremarkable on presentation and 
discharge. Patient had TEE and was found to have PFO. Patient 
had lower extremity ultrasound and CT pelvis and abdomen and no 
clots were found. Patient has pro coagulation workup, but to 
date lupus anticoagulant, protein c, protein s, and antithrombin 
is negative. Patient was discharged with aspirin 81 mg daily. 
Patient should follow up with primary provider as LDL 132 to 
discuss management options. Patient with no evidence of 
atherosclerotic disease on imaging. 
 
Medications on Admission:
None reported 
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*5 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left parietooccipital stroke. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because you developed 
transient right visual loss and were found to have an acute 
stroke in the region of the brain that is important in vision 
for the right eye.
We have found that you have a patent foramen ovale in your heart 
and we have discussed how this could increase you risk of 
stroke.  We have done imaging studies of your pelvis and lower 
extremities and did not find any blood clots.  We are still 
awaiting the results from some laboratory studies that if 
positive could indicate that you are at increased risk of blood 
clotting and therefore having strokes.     

We have started you on aspirin 81 mg daily.  This medication has 
been shown to reduce the risk of recurrence of stroke. 

Your cholesterol is on the high side and we recommend that you 
follow up with your primary care physician to discuss management 
options. 

We will follow up with you in clinic as scheduled below, but if 
one of your blood studies comes back sooner then we will contact 
you and plan/intervene accordingly.  

Thank you for allowing use to care for you, 
___ Neurology 
 
Followup Instructions:
___